US04372970
A mixture of ethyl 5-chloromethylbenzofuran-2-carboxylate (3.0 g, 0.0126 mol), sodium cyanide (1.23 g, 0.025 mol), tetrabutylammonium bromide (0.50 g, 0.0013 mol), water (10 cm3) and dichloromethane (10 cm3) was vigorously stirred for 18 hr. at room temperature. The mixture was separated and the organic layer was washed with water, dried (Na2SO4), filtered and the solvent was removed. The residue was recrystallised from petroleum ether (b.p. 60°-80° C.) to give ethyl 5-cyanomethylbenzofuran-2-carboxylate (1.92 g, 0.0084 mol, 66.6%) m.p. 76°-77° C.-t.l.c./silica/toluene, RF 0.11.

reactant | ethyl 5-chloromethylbenzofuran-2-carboxylate | 0.0126 mol, 3.0 g | ClCC=1C=CC2=C(C=C(O2)C(=O)OCC)C1 | C12H11ClO3
reactant | sodium cyanide | 0.025 mol, 1.23 g | [C-]#N.[Na+]
reactant | water | 10 cm3 | O | H2O
catalyst | tetrabutylammonium bromide | 0.0013 mol, 0.50 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | dichloromethane | 10 cm3 | ClCCl | CH2Cl2
product | ethyl 5-cyanomethylbenzofuran-2-carboxylate | 0.0084 mol, 1.92 g, 66.6% | C(#N)CC=1C=CC2=C(C=C(O2)C(=O)OCC)C1 | C13H11NO3
